US06605629B1
To a mixture of 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolebutanol (1.32 g), 2-methylphenol (865 mg), tributylphosphine (1.21 g) and tetrahydrofuran (30 ml) was added 1,1′-(azodicarbonyl)dipiperidine (1.51 g) at room temperature, and the resulting mixture was stirred for 1 hour. After the reaction mixture was concentrated, the residue was subjected to silica gel column chromatography, and 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-[4(2-methylphenoxy)butyl]oxazole was obtained as crystals (1.61 g, 96%) from an ethyl acetate-hexane (1:1, v/v)-eluted fraction. Recrystallization from acetone-isopropyl ether gave colorless prisms. Melting point 71-72° C.

reactant | 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolebutanol | 1.32 g | ClC1=CC=C(C=C1)C=1N=C(OC1CCCCO)N1C(=NC=C1)C | C17H18ClN3O2
reactant | 2-methylphenol | 865 mg | CC1=C(C=CC=C1)O | C7H8O
reactant | tributylphosphine | 1.21 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 1.51 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-[4(2-methylphenoxy)butyl]oxazole | ClC1=CC=C(C=C1)C=1N=C(OC1CCCCOC1=C(C=CC=C1)C)N1C(=NC=C1)C | C24H24ClN3O2
